US06025380
Hexane-washed 80% sodium hydride (1.45 g, 0.0483 mol) in dimethylformamide (80 mL) under argon was treated with a solution of 2-n-butylimidazole (5.45 g, 0.0439 mol) in dimethylformamide (14 mL) dropwise at 25° C. and the reaction was stirred an additional hour. Then 2-(trimethylsilyl)ethoxymethyl chloride (SEM-Cl) (7.68 g, 0.0461 mol) was added, the mixture was stirred for 18 hours at ambient temperature and then partitioned between ice water and ethyl acetate. The washed, dried, concentrated organic solution was chromatographed over silica gel with 1:1 hexane in ethyl acetate to yield 10.8 g (96%) of 2-n-butyl-1-(trimethylsilyl)-ethoxymethyl-imidazole.

reactant | Hexane | CCCCCC | C6H14
reactant | sodium hydride | 0.0483 mol, 1.45 g | [H-].[Na+]
reactant | 2-n-butylimidazole | 0.0439 mol, 5.45 g | C(CCC)C=1NC=CN1 | C7H12N2
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 0.0461 mol, 7.68 g | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 14 mL | CN(C=O)C | C3H7NO
product | 2-n-butyl-1-(trimethylsilyl)-ethoxymethyl-imidazole | 10.8 g, 96% | C(CCC)C=1N(C=C(N1)COCC)[Si](C)(C)C | C13H26N2OSi
